US07547691B2
(S)-2-{5-Methyl-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide
Using the method of (R)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide, the title compound is synthesized from 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide and (S)-4-(3-aminopropyl)-3-methylpiperazine-1-carboxylic acid tert-butyl ester and isolated as a yellow solid. ES+(m/z) 439 [M+H].

reactant | (R)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@@H](CNCC2)C | C22H27ClN6OS
reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)Cl | C15H12ClN3OS
reactant | (S)-4-(3-aminopropyl)-3-methylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](N(CC1)CCCN)C | C13H27N3O2
product | (S)-2-{5-Methyl-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2[C@H](CNCC2)C | C23H30N6OS
